US06642227B2
3-oxo-3-pyridin-3-yl-propionitrile
To a solution of ethyl nicotinate (30.24 g, 0.20 mol) in toluene (anhydrous, 200 mL) was added NaH (18.64 g, 0.47 mol, 60% in mineral oil). The resulting suspension was heated at 90° C. and acetonitrile (anhydrous, 24.74 ml, 0.47 mol) was added into this suspension via syringe under nitrogen and the reaction was heated at 90° C. overnight. The reaction mixture was cooled to ambient temperature and the resulting solid material was collected by filtration. The crude product was dried in vacuo and used directly in the next step. For analytical purposes, the solid was dissolved in water. The pH was adjusted to 5 by aqueous HCl and the solution extracted with DCM. The organic layer was dried over Na2SO4 and the solvent was removed in vacuo to afford a sample of the product for characterization. 1H NMR(CDCl3): δ9.2(s, 1H), 8.8(d, 1H), 8.2(d, 1H), 7.5(dd, 1H), 4.1 (s, 2H)

reactant | ethyl nicotinate | 0.20 mol, 30.24 g | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
reactant | NaH | 0.47 mol, 18.64 g | [H-].[Na+]
reactant | acetonitrile | 0.47 mol, 24.74 ml | C(C)#N | C2H3N
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 3-oxo-3-pyridin-3-yl-propionitrile | O=C(CC#N)C=1C=NC=CC1 | C8H6N2O
